US06307094B1
There are a number of ways of reducing β-ketoesters which have been disclosed. In addition to hydrogenation, reduction with zinc/acetic acid or with borohydride reagents are known. For the hydrogenation reactions reported in the literature, most use ruthenium, nickel, or baker's yeast as catalyst. All use a solvent. F. G. Kathawala et al. in Helvetica Chimica Acta, 69, 803-805 (1986) disclose an example in which 5% platinum on carbon is used as a catalyst for the reduction of various β-ketoesters using methanol as a solvent. T. Fujima et al. in JP 09268146 A2, Oct. 14, 1997 disclose the hydrogenation of ethyl trifluoroacetoacetate using a nickel catalyst in tetrahydrofuran solvent to provide ethyl 4,4,4-trifluoro-3-hydroxybutyrate in 78% yield. N. Sayo et al. in U.S. 4,933,482, Jun. 12, 1990 disclose the hydrogenation of ethyl trifluoroacetoacetate using a ruthenium catalyst in a polar solvent such as an alcohol or tetrahydrofuran to provide ethyl 4,4,4-trifluoro-3-hydroxybutyrate in 95% yield. None of these references disclose or suggest the process of the present invention in which we have discovered that no solvent is necessary for the catalytic hydrogenation.

reactant | borohydride | [BH4-]
reactant | ethyl trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
catalyst | ruthenium | [Ru] | Ru
catalyst | nickel | [Ni] | Ni
catalyst | platinum on carbon | [Pt] | Pt
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc acetic acid | [Zn].C(C)(=O)O
product | ethyl 4,4,4-trifluoro-3-hydroxybutyrate | 78% yield | FC(C(CC(=O)OCC)O)(F)F | C6H9F3O3
